US05534529
N-[2-Ethyl-6-(1-hydroxy-3-phenylpropyl)phenyl]-2-(9H-xanthen-9-yl)acetamide (Compound No. 1-1441)
Following a procedure similar to that described in Example 14, but using N-(2-ethyl-6-formylphenyl)-2-(9H-xanthen-9-yl)acetamide (prepared by a procedure similar to that described in Preparation 29) and phenethylmagnesium bromide as starting materials, in relative proportions similar to those used in that Example, the title compound was obtained as crystals, melting at 128°-129° C. (after recrystallization from a mixture of ethyl acetate and hexane).

reactant | N-(2-ethyl-6-formylphenyl)-2-(9H-xanthen-9-yl)acetamide | C(C)C1=C(C(=CC=C1)C=O)NC(CC1C2=CC=CC=C2OC=2C=CC=CC12)=O | C24H21NO3
reactant | phenethylmagnesium bromide | C(CC1=CC=CC=C1)[Mg]Br
product | N-[2-Ethyl-6-(1-hydroxy-3-phenylpropyl)phenyl]-2-(9H-xanthen-9-yl)acetamide | C(C)C1=C(C(=CC=C1)C(CCC1=CC=CC=C1)O)NC(CC1C2=CC=CC=C2OC=2C=CC=CC12)=O | C32H31NO3
